US05594021
N-(4-Bromo-3-methyl-5-isoxazolyl)-2,5-dichlorothiophene-3-sulfonamide was prepared in the same manner as described in Example 2 from 5-amino-4-bromo-3-methylisoxazole and 2,5-dichlorothiophene-3-sulphonyl chloride in 47% yield. Purification was achieved by recrystallization from ethyl acetate/hexanes to give a crystalline solid, m.p. 135°-138° C.

reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | 2,5-dichlorothiophene-3-sulphonyl chloride | ClC=1SC(=CC1S(=O)(=O)Cl)Cl | C4HCl3O2S2
product | N-(4-Bromo-3-methyl-5-isoxazolyl)-2,5-dichlorothiophene-3-sulfonamide | 47% yield | BrC=1C(=NOC1NS(=O)(=O)C1=C(SC(=C1)Cl)Cl)C | C8H5BrCl2N2O3S2
